US06953790B2
Step A. Trans-[1-(2-methoxyethyl)-2-oxo-6-phenylazepan-3-yl]acetic acid
Trifluoroacetic acid (1 mL) was added to a solution (trans)-tert-butyl[1-(2-methoxyethyl)-2-oxo-6-phenylazepan-3-yl]acetate (170 mg, 0.47 mmol) in dichloromethane (3 mL). After 2 h, the solution was concentrated. MS 306 (M+1).

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (trans)-tert-butyl[1-(2-methoxyethyl)-2-oxo-6-phenylazepan-3-yl]acetate | 0.47 mmol, 170 mg | C(C)(C)(C)C(C(=O)[O-])[C@@H]1C(N(C[C@H](CC1)C1=CC=CC=C1)CCOC)=O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | Trans-[1-(2-methoxyethyl)-2-oxo-6-phenylazepan-3-yl]acetic acid | COCCN1C([C@H](CC[C@@H](C1)C1=CC=CC=C1)CC(=O)O)=O | C17H23NO4
